US08217069B2
3-[2-Chloro-4-methoxy-5-(1-methyl-1-phenylethylthio)phenyl]-5-hydroxymethyl-7-methoxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a solution of 5-(tert-butyldimethylsilyloxy)methyl-3-[2-chloro-4-methoxy-5-(1-methyl-1-phenylethylthio)phenyl]-7-methoxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (24 mg) in tetrahydrofuran (2 mL) was added tetra(n-butyl)ammonium fluoride hydrate (31 mg), and the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/2) to give the title compound (10 mg).

reactant | 5-(tert-butyldimethylsilyloxy)methyl-3-[2-chloro-4-methoxy-5-(1-methyl-1-phenylethylthio)phenyl]-7-methoxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 24 mg | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C2C(=N1)N(C(N2)=O)C2=C(C=C(C(=C2)SC(C)(C2=CC=CC=C2)C)OC)Cl)OC | C30H38ClN3O4SSi
reactant | tetra(n-butyl)ammonium fluoride hydrate | 31 mg | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-[2-Chloro-4-methoxy-5-(1-methyl-1-phenylethylthio)phenyl]-5-hydroxymethyl-7-methoxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 10 mg | ClC1=C(C=C(C(=C1)OC)SC(C)(C1=CC=CC=C1)C)N1C(NC=2C1=NC(=CC2OC)CO)=O | C24H24ClN3O4S
